** sch_path: /foss/designs/DPI-adexp-neuron-ttihp/xschem/dpi_adexp_neuron/xschem/neuron_ideal_CS/neuron2_final.sch
**.subckt neuron2_final
Iin VDD vn1 0.6u
XM3 vmem VLK GND GND sg13_lv_nmos w=1.2u l=3.0u ng=1
XM1 GND VTHR vn1 VDD sg13_lv_pmos w=1.2u l=0.75u ng=1
XM4 vmem vmem vn1 VDD sg13_lv_pmos w=1.2u l=0.75u ng=1
XC5 vmem GND cap_cmim w=10.0e-6 l=10.0e-6 m=8
Vdd1 VDD GND 1.8
XM23 VLK VLK GND GND sg13_lv_nmos w=1.2u l=3.0u ng=1
ILK VDD VLK 10n
XM24 VREF VREF GND GND sg13_lv_nmos w=1.2u l=3.0u ng=1
IVREF VDD VREF 0.5u
XM5 vmem RST GND GND sg13_lv_nmos w=1.2u l=0.28u ng=1
XM6 net2 net1 VDD VDD sg13_lv_pmos w=2.4u l=3.0u ng=1
XM8 vmem REQ net2 VDD sg13_lv_pmos w=2.4u l=0.28u ng=1
XM9 net1 net1 VDD VDD sg13_lv_pmos w=2.4u l=3.0u ng=1
XM10 REQ vmem net1 VDD sg13_lv_pmos w=2.4u l=0.28u ng=1
XM11 REQ vmem net3 GND sg13_lv_nmos w=1.2u l=0.28u ng=1
XM25 net3 net3 GND GND sg13_lv_nmos w=1.2u l=3.0u ng=1
XM26 net4 REQ net6 VDD sg13_lv_pmos w=2.4u l=0.28u ng=1
XM27 net4 REQ net5 GND sg13_lv_nmos w=1.2u l=0.28u ng=1
XM28 net5 VREF GND GND sg13_lv_nmos w=1.2u l=3.0u ng=1
XM29 net6 net6 net7 VDD sg13_lv_pmos w=2.4u l=3.0u ng=1
XM30 net7 REQ VDD VDD sg13_lv_pmos w=2.4u l=0.28u ng=1
* noconn OUT
XM2 VTHR VTHR GND GND sg13_lv_nmos w=1.2u l=3.0u ng=1
ITHR VDD VTHR 0.9u
XC2 RST GND cap_cmim w=10.0e-6 l=10.0e-6 m=8
XM7 net9 net4 net10 VDD sg13_lv_pmos w=2.4u l=0.28u ng=1
XM12 net9 net4 GND GND sg13_lv_nmos w=1.2u l=0.28u ng=1
XM14 net10 net10 VDD VDD sg13_lv_pmos w=2.4u l=3.0u ng=1
XM13 RST net9 net11 VDD sg13_lv_pmos w=2.4u l=0.28u ng=1
XM15 RST net9 GND GND sg13_lv_nmos w=1.2u l=0.28u ng=1
XM16 net11 net11 VDD VDD sg13_lv_pmos w=2.4u l=3.0u ng=1
xbuff1 VDD REQ net8 GND buff
xinv1 VDD net8 OUT GND inv
**** begin user architecture code

.include diodes.lib
.include sg13g2_bondpad.lib



.options savecurrents
.include neuron2_final.save
.param temp=27
.control
set wr_singlescale
set noaskquit
*set appendwrite
set hcopypscolor=1

*Save node voltages and device currents if desired
save all

*Baseline operating point at current deck values
op
write tran_neuron.raw

*alter Vdd1 dc 1.7
*alter Vthr dc 0.9
*alter Vlk dc 0.3
*alter vahp1 dc 1.0
tran 10n 10u
write tran_neuron.raw
*Example plots (uncomment inside ngspice if you want autoplots)
plot vmem vn1 Vthr Vlk
plot vmem out
*quit
.endc





.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ


**** end user architecture code
**.ends

* expanding   symbol:  dpi_adexp_neuron/xschem/neuron_ideal_CS/buff.sym # of pins=4
** sym_path: /foss/designs/DPI-adexp-neuron-ttihp/xschem/dpi_adexp_neuron/xschem/neuron_ideal_CS/buff.sym
** sch_path: /foss/designs/DPI-adexp-neuron-ttihp/xschem/dpi_adexp_neuron/xschem/neuron_ideal_CS/buff.sch
.subckt buff VDD in out VSS
*.iopin VDD
*.ipin in
*.iopin VSS
*.opin out
XM1 net1 in VSS VSS sg13_lv_nmos w=1.2u l=0.28u ng=1
XM2 net1 in VDD VDD sg13_lv_pmos w=2.4u l=0.28u ng=2
XM4 out net1 VSS VSS sg13_lv_nmos w=3.0u l=0.28u ng=4
XM5 out net1 VDD VDD sg13_lv_pmos w=6.0u l=0.28u ng=4
.ends


* expanding   symbol:  dpi_adexp_neuron/xschem/neuron_ideal_CS/inv.sym # of pins=4
** sym_path: /foss/designs/DPI-adexp-neuron-ttihp/xschem/dpi_adexp_neuron/xschem/neuron_ideal_CS/inv.sym
** sch_path: /foss/designs/DPI-adexp-neuron-ttihp/xschem/dpi_adexp_neuron/xschem/neuron_ideal_CS/inv.sch
.subckt inv VDD in out VSS
*.iopin VDD
*.ipin in
*.iopin VSS
*.opin out
XM1 out in VSS VSS sg13_lv_nmos w=2.0u l=0.28u ng=1
XM2 out in VDD VDD sg13_lv_pmos w=2.0u l=0.28u ng=1
.ends

.GLOBAL GND
.GLOBAL VDD
.end
