** sch_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/neuron_noahp.sch
**.subckt neuron_noahp VDD I_in V_lk Vmem REQ ACK V_ref GND Vrefcap psub nwell
*.ipin V_ref
*.iopin GND
*.iopin VDD
*.opin REQ
*.ipin ACK
*.ipin I_in
*.ipin V_lk
*.opin Vmem
*.opin Vrefcap
*.iopin psub
*.iopin nwell
Xinv1 VDD Vfb net1 GND inv
Xinv2 VDD net1 REQ GND inv
Xdpi1 I_in VDD Vmem V_lk GND nwell psub DPI
Xfb VDD Vfb Vmem GND nwell psub FB_system
Xref ACK Vmem REQ Vrefcap GND V_ref VDD nwell psub REF_system
Cmem Vmem GND 1p
Cref Vrefcap GND 0.5p
**.ends

* expanding   symbol:  inv.sym # of pins=4
** sym_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/inv.sym
** sch_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/inv.sch
.subckt inv VDD in out GND
*.ipin in
*.iopin VDD
*.iopin GND
*.opin out
XM1 out in VDD VDD sg13_hv_pmos w=1u l=0.5u ng=1
XM2 out in GND GND sg13_hv_nmos w=1u l=0.5u ng=1
.ends


* expanding   symbol:  DPI.sym # of pins=7
** sym_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/DPI.sym
** sch_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/DPI.sch
.subckt DPI I_in VDD V_mem V_lk GND nwell psub
*.opin V_mem
*.ipin V_lk
*.ipin I_in
*.iopin VDD
*.iopin GND
*.iopin nwell
*.iopin psub
XMdifl GND V_lk I_in nwell sg13_hv_pmos w=2u l=2u ng=2 m=8
XMdifr V_mem V_mem I_in nwell sg13_hv_pmos w=2u l=2u ng=2 m=8
XMtau V_mem V_lk GND psub sg13_hv_nmos w=4u l=4u ng=2 m=4
XR1 VDD nwell ntap1 R=16.73 w=25.2e-6 l=0.3e-6
XR2 VDD nwell ntap1 R=46.01 w=0.3e-6 l=9e-6
XR3 VDD nwell ntap1 R=46.01 w=0.3e-6 l=9e-6
XR4 GND psub ptap1 R=3.342 w=25.7e-6 l=9e-6 rw=0.3e-6
XMdum1 VDD VDD VDD nwell sg13_hv_pmos w=5u l=2u ng=10 m=2
XMdum2 I_in VDD VDD nwell sg13_hv_pmos w=1u l=2u ng=1 m=8
XMdum3 GND GND GND psub sg13_hv_nmos w=2u l=4u ng=4 m=2
XMdum4 GND GND GND psub sg13_hv_nmos w=0.5u l=3u ng=1 m=4
XMdum5 GND GND GND psub sg13_hv_nmos w=2u l=3u ng=1 m=4
.ends


* expanding   symbol:  FB_system.sym # of pins=6
** sym_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/FB_system.sym
** sch_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/FB_system.sch
.subckt FB_system VDD out V_mem GND nwell psub
*.opin out
*.iopin V_mem
*.iopin VDD
*.iopin GND
*.iopin nwell
*.iopin psub
XMmirr Vmir Vmir VDD nwell sg13_hv_pmos w=4u l=2u ng=4
XMmirl4 V_mem Vmir net1 nwell sg13_hv_pmos w=1u l=2u ng=1
XMthr out V_mem Vmir nwell sg13_hv_pmos w=4u l=2u ng=4
XMmem1 out V_mem net2 psub sg13_hv_nmos w=1u l=2u ng=1 m=2
XMmirl3 net1 Vmir net3 nwell sg13_hv_pmos w=1u l=2u ng=1
XMmirl2 net3 Vmir net4 nwell sg13_hv_pmos w=1u l=2u ng=1
XMmirl1 net4 Vmir VDD nwell sg13_hv_pmos w=1u l=2u ng=1
XMmem2 net2 V_mem net5 psub sg13_hv_nmos w=1u l=2u ng=1 m=2
XMmem3 net5 V_mem net6 psub sg13_hv_nmos w=1u l=2u ng=1 m=2
XMmem4 net6 V_mem GND psub sg13_hv_nmos w=1u l=2u ng=1 m=2
XMdum1 GND GND GND psub sg13_hv_nmos w=6u l=2u ng=6 m=2
XMdum2 GND GND GND psub sg13_hv_nmos w=1u l=2u ng=1 m=2
XMdum3 out GND GND psub sg13_hv_nmos w=1u l=2u ng=1 m=2
XMdum4 VDD VDD VDD nwell sg13_hv_pmos w=6u l=2u ng=6 m=2
XMdum5 VDD VDD VDD nwell sg13_hv_pmos w=1u l=2u ng=1 m=3
XMdum6 out VDD VDD nwell sg13_hv_pmos w=1u l=2u ng=1 m=2
XMdum7 V_mem VDD VDD nwell sg13_hv_pmos w=1u l=2u ng=1
XR1 VDD nwell ntap1 R=4.4 w=16e-6 l=10.5e-6 rw=0.3e-6
XR2 GND psub ptap1 R=4.829 w=16e-6 l=8.2e-6 rw=0.3e-6
.ends


* expanding   symbol:  REF_system.sym # of pins=9
** sym_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/REF_system.sym
** sch_path: /foss/designs/adex_neuron/chenxi_working/ttihp26a-adex-neuron-ncs/xschem/REF_system.sch
.subckt REF_system ACK V_mem REQ Vrefcap GND V_ref VDD nwell psub
*.iopin VDD
*.iopin GND
*.ipin V_ref
*.ipin REQ
*.ipin ACK
*.ipin V_mem
*.opin Vrefcap
*.iopin nwell
*.iopin psub
XM10 Vrefcap REQ net2 nwell sg13_hv_pmos w=1u l=0.5u ng=1
XM11 Vrefcap REQ net1 psub sg13_hv_nmos w=1u l=0.5u ng=1
XM12 net2 ACK VDD nwell sg13_hv_pmos w=1u l=0.5u ng=1
XM13 V_mem Vrefcap GND psub sg13_hv_nmos w=1u l=0.5u ng=1
XM14 net1 V_ref GND psub sg13_hv_nmos w=4u l=4u ng=2 m=4
.ends

.end
